US06235731B1
2) Synthesis of N-[3-(4-benzylpiperidin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 1.84 g (4.25 mM) of N-[3-(4-benzylpiperidin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 6 ml (24 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. After the solvent was distilled off under reduced pressure, ethanol and diethyl ether were added to the crystalline residue. The crystal crop was then harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[3-(4-benzylpiperidin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 4.25 mM, 1.84 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H28N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[3-(4-benzylpiperidin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)C1CCN(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H28N4OS.2ClH/c30-25(22-17-21-18-27-23-8-4-9-24(31-22)29(21)23)26-12-5-13-28-14-10-20(11-15-28)16-19-6-2-1-3-7-19;;/h1-4,6-9,17-18,20H,5,10-16H2,(H,26,30);2*1H
